US09126980B2
Step 5: Preparation of (S)-1-(4-bromo-2-(3-(hydroxymethyl)-1,2,3,4-tetrahydroisoquinoline-2-carbonyl)phenyl)-N,N-dibutyl-5-methyl-1H-pyrazole-3-carboxamide
To a solution of (S)-1-(4-bromo-2-(3-(hydroxymethyl)-1,2,3,4-tetrahydroisoquinoline-2-carbonyl)phenyl)-5-methyl-1H-pyrazole-3-carboxylic acid (10.0 g, 21.3 mmol) in DMF (100 mL) were added dibutylamine (3.7 mL, 21.3 mmol), EDC.HCl (6.1 g, 31.9 mmol), HOBT (3.3 g, 21.3 mmol) followed by stirring at RT for 12 h. The reaction mixture was diluted with water, extracted with EtOAc (100 mL×2), twice. The combined organic layers were washed with water (100 mL), brine (50 mL), dried over sodium sulphate and concentrated invacuo. The residue was purified on silica gel (100-200 mesh) to afford the title compound as a hygroscopic solid, 4.5 g (36%). Rf=0.44 (55% EtOAc in hexane); 1H NMR (400 MHz, DMSO-d6): δ 8.00-7.40 (m, 3H), 7.30-6.80 (m, 4H), 6.50-6.20 (m, 1H), 5.10-4.00 (m, 3H), 4.00-2.40 (m, 9H), 2.40-2.00 (m, 3H), 1.60-0.50 (m, 14H); LC-MS: m/z 581.4 (M+H); HPLC: 90.74% (RT=9.216 min., method C).

reactant | (S)-1-(4-bromo-2-(3-(hydroxymethyl)-1,2,3,4-tetrahydroisoquinoline-2-carbonyl)phenyl)-5-methyl-1H-pyrazole-3-carboxylic acid | 21.3 mmol, 10.0 g | BrC1=CC(=C(C=C1)N1N=C(C=C1C)C(=O)O)C(=O)N1CC2=CC=CC=C2C[C@H]1CO | C22H20BrN3O4
reactant | dibutylamine | 21.3 mmol, 3.7 mL | C(CCC)NCCCC | C8H19N
reactant | EDC.HCl | 31.9 mmol, 6.1 g | CCN=C=NCCCN(C)C.Cl
reactant | HOBT | 21.3 mmol, 3.3 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | (S)-1-(4-bromo-2-(3-(hydroxymethyl)-1,2,3,4-tetrahydroisoquinoline-2-carbonyl)phenyl)-N,N-dibutyl-5-methyl-1H-pyrazole-3-carboxamide | BrC1=CC(=C(C=C1)N1N=C(C=C1C)C(=O)N(CCCC)CCCC)C(=O)N1CC2=CC=CC=C2C[C@H]1CO | C30H37BrN4O3
